* D:\INGEÑERIA\Circuitos Electronicos II\Resoluciones ejercicios\TP1.1 - Fuentes no reguladas\simus\Problema 6 TP1.1.asc
V1 N001 N004 SINE(0 321.5 50 0 0 90)
D1 N001 N002 D
D2 0 N001 D
D3 0 N004 D
D4 N004 N002 D
C1 N003 0 23.87µ
R1 N003 0 933.33
R2 N003 N002 50m
.model D D
.lib C:\Users\nacho\AppData\Local\LTspice\lib\cmp\standard.dio
.tran .1
.backanno
.end
